US08309721B2
In a 50 ml round-bottomed flask, a mixture of 210 mg of 9-(5-carbamoylpyridin-2-yl)-9H-carbazole-4-carboxylic acid, obtained according to the preceding stage, 105 mg of 4-fluoro-O-phenylenediamine, 273 mg of O-((ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TOTU) and 138 μl of diisopropylethylamine in 36 ml of dimethylformamide is stirred at ambient temperature for 12 hours. 300 ml of water are added to the reaction medium and then the aqueous phase is extracted with twice 300 ml of ethyl acetate. The organic phases are combined, washed with 100 ml of a saturated solution of sodium chloride, dried over magnesium sulphate and then evaporated to dryness under vacuum. The crude residue obtained is dissolved with 8.5 ml of glacial acetic acid in a 20 ml tube reactor and heated in a microwave at 110° C. for 1 hour. After return to ambient temperature, the reaction mixture is concentrated under reduced pressure and then 10 ml of water and a 10% aqueous solution of sodium hydrogen carbonate are added in order to bring the pH to around 8. The aqueous phase is extracted with 1×100 ml of ethyl acetate and then the organic phase is concentrated under reduced pressure. The crude residue obtained is purified by silica gel chromatography (15-40 μm), elution being carried out with a mixture of dichloromethane and 7N ammonia in methanol (95/5 by volume). 110 mg of 6-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]nicotinamide are thus obtained in the form of an off-beige solid, the characteristics of which are the following:

reactant | 9-(5-carbamoylpyridin-2-yl)-9H-carbazole-4-carboxylic acid | 210 mg | C(N)(=O)C=1C=CC(=NC1)N1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O | C19H13N3O3
reactant | 4-fluoro-O-phenylenediamine | 105 mg | C1=CC(=C(C=C1F)N)N | C6H7FN2
reactant | O-((ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 273 mg | F[B-](F)(F)F.C(C)OC(=O)C(C#N)=NOC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 138 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 36 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 8.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 6-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]nicotinamide | 110 mg | FC=1C=CC2=C(NC(=N2)C2=CC=CC=3N(C4=CC=CC=C4C23)C2=NC=C(C(=O)N)C=C2)C1 | C25H16FN5O
